US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylsulfanyl)-piperidine-1-carboxylic Acid (1-phenyl-cyclopentylmethyl)-amide
4-{[4-(2-Aminoethyl)phenyl]sulfanyl}-N-[(1-phenylcyclopentyl)methyl]-1-piperidinecarboxamide (0.785 g, 1.793 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane (0.62 g, 1.533 mmol) according to Procedure G to give the title compound (eluant: 20:1 chloroform-methanol) (0.830 g, 0.986 mmol).

reactant | 4-{[4-(2-Aminoethyl)phenyl]sulfanyl}-N-[(1-phenylcyclopentyl)methyl]-1-piperidinecarboxamide | 1.793 mmol, 0.785 g | NCCC1=CC=C(C=C1)SC1CCN(CC1)C(=O)NCC1(CCCC1)C1=CC=CC=C1 | C26H35N3OS
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenylsilane | 1.533 mmol, 0.62 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylsulfanyl)-piperidine-1-carboxylic Acid (1-phenyl-cyclopentylmethyl)-amide | 0.986 mmol, 0.830 g | C1(=CC=CC=C1)C1(CCCC1)CNC(=O)N1CCC(CC1)SC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C35H45N3O4S
